US04625048
A mixture of 5 g of p-(p-fluorophenoxy)phenol, 5.1 g of ethyl 2-bromopropionate and 4 g of potassium carbonate is stirred at reflux temperature in 25 ml of acetone for 24 hours. After evaporation of the solvent the residue is taken up in 100 ml of diethyl ether and 100 ml of water. The ether phase is washed with semi-saturated and saturated sodium chloride solution, dried over anhydrous sodium sulfate and evaporated. The residue is purified by chromatography on silica gel with n-hexane/ethyl acetate (19:1) to yield pure ethyl 2-[p-(p-fluorophenoxy)phenoxy]-propionate; nD20 =1.5304.

reactant | p-(p-fluorophenoxy)phenol | 5 g | FC1=CC=C(OC2=CC=C(C=C2)O)C=C1 | C12H9FO2
reactant | ethyl 2-bromopropionate | 5.1 g | BrC(C(=O)OCC)C | C5H9BrO2
reactant | potassium carbonate | 4 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 25 ml | CC(=O)C | C3H6O
product | ethyl 2-[p-(p-fluorophenoxy)phenoxy]-propionate | FC1=CC=C(OC2=CC=C(OC(C(=O)OCC)C)C=C2)C=C1 | C17H17FO4
